US07772253B2
The necessary intermediate 4-Cyclopropyl-3-ethoxy-benzaldehyde was prepared as described in example 158, but using 3-ethoxy-4-iodo-benzaldehyde (synthesized from 3-ethoxy-4-iodo-benzoic acid ethyl ester (CAS NO. 741699-04-7) by DIBAL-H reduction followed by MnO2 oxidation) as starting material, as light brown oil.

reactant | 3-ethoxy-4-iodo-benzaldehyde | C(C)OC=1C=C(C=O)C=CC1I | C9H9IO2
reactant | 3-ethoxy-4-iodo-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)I)OCC)=O | C11H13IO3
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
catalyst | MnO2 | O=[Mn]=O
product | 4-Cyclopropyl-3-ethoxy-benzaldehyde | C1(CC1)C1=C(C=C(C=O)C=C1)OCC | C12H14O2
